* /home/choudharyabhi2015/esim-workspace/avishek_10bit_dac/avishek_10bit_dac.cir

.include dacSwitch_subckt.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
* u3  input gnd net-_u1-pad1_ net-_u1-pad2_ adc_bridge_2
* u2  net-_u1-pad12_ net-_u1-pad11_ net-_u1-pad10_ net-_u1-pad9_ net-_u1-pad8_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ dac_bridge_5
* u4  net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad3_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ dac_bridge_5
x3 net-_u2-pad8_ net-_x1-pad2_ net-_sc6-pad1_ net-_x1-pad4_ dacSwitch_subckt
x4 net-_u2-pad9_ net-_x1-pad2_ net-_sc8-pad1_ net-_x1-pad4_ dacSwitch_subckt
x5 net-_u2-pad10_ net-_x1-pad2_ net-_sc10-pad1_ net-_x1-pad4_ dacSwitch_subckt
x6 net-_u4-pad6_ net-_x1-pad2_ net-_sc12-pad1_ net-_x1-pad4_ dacSwitch_subckt
x7 net-_u4-pad7_ net-_x1-pad2_ net-_sc14-pad1_ net-_x1-pad4_ dacSwitch_subckt
x8 net-_u4-pad8_ net-_x1-pad2_ net-_sc16-pad1_ net-_x1-pad4_ dacSwitch_subckt
x9 net-_u4-pad9_ net-_x1-pad2_ net-_sc19-pad1_ net-_x1-pad4_ dacSwitch_subckt
x10 net-_u4-pad10_ net-_x1-pad2_ net-_sc21-pad1_ net-_x1-pad4_ dacSwitch_subckt
v1 net-_x1-pad2_ gnd  dc 1.8
v2 net-_x1-pad4_ gnd  dc 1.8
v3  input gnd pulse(0 2 0 0 0 1 2)
* s c m o d e
* u6  input plot_v1
xsc3 net-_sc3-pad1_ net-_sc1-pad2_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
x1 net-_u2-pad6_ net-_x1-pad2_ net-_sc3-pad1_ net-_x1-pad4_ dacSwitch_subckt
xsc2 net-_sc1-pad2_ gnd sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
x2 net-_u2-pad7_ net-_x1-pad2_ net-_sc4-pad1_ net-_x1-pad4_ dacSwitch_subckt
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc4 net-_sc4-pad1_ net-_sc1-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
xsc6 net-_sc6-pad1_ net-_sc5-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
xsc5 net-_sc5-pad1_ net-_sc1-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc7 net-_sc7-pad1_ net-_sc5-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc8 net-_sc8-pad1_ net-_sc7-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
xsc9 net-_sc10-pad2_ net-_sc7-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc10 net-_sc10-pad1_ net-_sc10-pad2_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
xsc12 net-_sc12-pad1_ net-_sc11-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc11 net-_sc11-pad1_ net-_sc10-pad2_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
xsc13 net-_sc13-pad1_ net-_sc11-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
xsc14 net-_sc14-pad1_ net-_sc13-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc16 net-_sc16-pad1_ net-_sc15-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
xsc15 net-_sc15-pad1_ net-_sc13-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc18 net-_sc18-pad1_ net-_sc15-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc20 op_in net-_sc18-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=240;MF=1;
xsc19 net-_sc19-pad1_ net-_sc18-pad1_ sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
xsc21 net-_sc21-pad1_ op_in sky130_fd_pr__cap_mim_m3_1 W=200u;L=120;MF=1;
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ avishek_10bitcounter
* u7  op_in plot_v1
a1 [input gnd ] [net-_u1-pad1_ net-_u1-pad2_ ] u3
a2 [net-_u1-pad12_ net-_u1-pad11_ net-_u1-pad10_ net-_u1-pad9_ net-_u1-pad8_ ] [net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ ] u2
a3 [net-_u1-pad7_ net-_u1-pad6_ net-_u1-pad5_ net-_u1-pad4_ net-_u1-pad3_ ] [net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ ] u4
a4 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ ] u1
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=0 in_high=2 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u2 dac_bridge(out_low=0 out_high=2 out_undef=0 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0 out_high=2 out_undef=0 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             avishek_10bitcounter, NgSpice Name: avishek_10bitcounter
.model u1 avishek_10bitcounter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.1e-00 50e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(input)
plot v(op_in)
.endc
.end
