* /home/choudharyabhi2015/esim-2.3/library/subcircuitlibrary/dacswitch_subckt/dacswitch_subckt.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
xsc1 net-_sc1-pad1_ /pulse_input gnd /vdd_driver sky130_fd_pr__pfet_01v8 
xsc4 net-_sc1-pad1_ net-_sc2-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc5 net-_sc1-pad1_ net-_sc2-pad1_ net-_sc5-pad3_ /vdd_driver sky130_fd_pr__pfet_01v8 
xsc6 net-_sc1-pad1_ /pulse_input net-_sc5-pad3_ gnd sky130_fd_pr__nfet_01v8 
* s c m o d e
xsc2 net-_sc2-pad1_ /pulse_input /vdd_driver /vdd_driver sky130_fd_pr__pfet_01v8 
xsc3 net-_sc2-pad1_ /pulse_input gnd gnd sky130_fd_pr__nfet_01v8 
* u1  /pulse_input /vdd_driver net-_sc1-pad1_ net-_sc5-pad3_ port
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
