* /home/choudharyabhi2015/esim-workspace/test_switch/test_switch.cir

.include dacSwitch_subckt.sub
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
x1 in net-_x1-pad2_ out net-_x1-pad4_ dacSwitch_subckt
v2 net-_x1-pad2_ gnd  dc 1.8
v3 net-_x1-pad4_ gnd  dc 1
v1  in gnd pulse(0 2 0 0.1m 0.1m 1 4)
* u1  in plot_v1
* u2  out plot_v1
* s c m o d e
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
